US08669234B2
The mixture of 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.7 g, 4 mmol), acetic acid (24 μl), and ammonium acetate (1.54 g, 20 mmol) in xylene (20 ml) was heated at 140° C. for 20 hours. The mixture was quenched with saturated sodium carbonate solution, and extracted with EtOAc. The organic phase was washed with water and brine, and was dried with sodium sulfate. Concentration and purification by flash column chromatography (hexanes/EtOAc) gave 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (1.21 g). m/z: 417.9 (M+H)+.

reactant | 3-[2-(4-bromo-phenyl)-2-oxo-ethylcarbamoyl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 4 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1C2CCC(C1C(NCC(=O)C1=CC=C(C=C1)Br)=O)C2 | C20H25BrN2O4
reactant | acetic acid | 24 μl | C(C)(=O)O | C2H4O2
reactant | ammonium acetate | 20 mmol, 1.54 g | C(C)(=O)[O-].[NH4+]
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 1.21 g | C(C)(C)(C)OC(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC=C(C=C1)Br)C2 | C20H24BrN3O2
